US04308279
A mixture of 468.6 g (2.08 moles) (cyano)(3-phenoxyphenyl)methanol and 2500 ml toluene was placed in a flask and heated to 40° C. During an 80-85 minute period, 509 g (2.24 moles) of (cis)-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride prepared as described in Step B, and 186 g (2.35 moles) of pyridine were added under nitrogen. Upon completion of the addition, the reaction mixture was stirred 2.5 hours at 40° C. After cooling, the reaction mixture was washed successively with 1000 ml of water, 1000 ml of 1 N hydrochloric acid, 1000 ml of 1 N sodium hydroxide, twice with water, and once with an aqueous solution of sodium chloride. After being dried over magnesium sulfate, the solution was filtered through Celite and the solvent stripped using a rotary evaporator. Residual solvent was removed in a vacuum oven. A total of 918.3 g of 93.6% (cyano)(3-phenoxyphenyl)methyl cis-3-(2,2dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate was obtained.

reactant | (cyano)(3-phenoxyphenyl)methanol | 2.08 moles, 468.6 g | C(#N)C(O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C14H11NO2
reactant | (cis)-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 2.24 moles, 509 g | ClC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)Cl | C8H9Cl3O
reactant | pyridine | 2.35 moles, 186 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 2500 ml | C1(=CC=CC=C1)C | C7H8
product | (cyano)(3-phenoxyphenyl)methyl cis-3-(2,2dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate | 918.3 g, 93.6% | ClC(=C[C@H]1C([C@H]1C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)(C)C)Cl | C22H19Cl2NO3
